US06071927
4-(Methanesulfonyl)phenol
Oxone (65.8 g, 0.108 mol) in water (290 ml) was added to a cooled (ice-bath) solution of 4-(methylmercapto)phenol (5 g, 36 mmol) in methanol (290 ml). The resulting solution was stirred at ambient temperature for 48 h. and then concentrated in vacuo. The residue was diluted with water (100 ml) and extracted with dichloromethane (10×100 ml). The combined organic layers were dried over sodium sulphate and removal of the solvent in vacuo gave the title compound as a clear oil (5.66 g, 92%). 1H NMR (250 MHz, CDCl3) δ7.80-7.75 (2H, d, J 11.7 Hz), 7.28 (1H, br s), 7.01-6.96 (2H, d, J 11.7 Hz), and 3.08 (3H, s).

reactant | Oxone | 0.108 mol, 65.8 g | OOS(=O)[O-].[K+]
reactant | 4-(methylmercapto)phenol | 36 mmol, 5 g | CSC1=CC=C(C=C1)O | C7H8OS
reactant | water | 290 ml | O | H2O
solvent | methanol | 290 ml | CO | CH4O
product | 4-(Methanesulfonyl)phenol | 5.66 g, 92% | CS(=O)(=O)C1=CC=C(C=C1)O | C7H8O3S
